US07160875B2
a) (2S)-2-Fluoro-2-methyl-N-((S)-5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid ethyl ester
In an analogous manner to that described in Example 1 a), the condensation of (S)-7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one and (2S)-2-fluoro-2-methyl-malonic acid mono ethyl ester yielded the title compound as a colourless oil;

reactant | (S)-7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one | N[C@H]1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C15H14N2O
reactant | (2S)-2-fluoro-2-methyl-malonic acid mono ethyl ester | C(C)OC([C@@](C(=O)O)(C)F)=O | C6H9FO4
product | (2S)-2-Fluoro-2-methyl-N-((S)-5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamic acid ethyl ester | C(C)OC([C@@](C(=O)N[C@H]1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2)(C)F)=O | C21H21FN2O4
